US08168828B2
The tartarate salt of 3-aminomethyl N,N-diethyl-5-methyl hexanamide (10 grams) was dissolved in water (15 ml) and dichloromethane (25 ml) was added to it. The pH of reaction mixture was adjusted to 9-10 by addition of sodium hydroxide solution (3.0 gm NaOH in 3.0 ml of water) and stirred for 10-15 min at 20-25° C. The aqueous and organic layers were separated. The aqueous layer was extracted with dichloromethane. The aqueous layer was taken up for recovery of tartaric acid. The solvent was distilled off from combined organic layer to obtain a residue. Potassium hydroxide (5.0 grams) and water (5.0 ml) was added to the residue and heated to 115° C., the reaction was stirred at this temperature for 20 hours. The reaction mixture was cooled to 30° C. and the pH adjusted to 4.0 using concentrated hydrochloric acid. The reaction mixture was heated to 80° C. and stirred for 45 min and filtered. The filtrate was cooled to 5° C. and stirred for ninety minutes. The precipitated solid was filtered and washed with cool water. The solid was dried at 50-55° C. to yield (S)-Pregabalin.

reactant | tartarate | C(C(O)C(O)C(=O)[O-])(=O)[O-]
reactant | 3-aminomethyl N,N-diethyl-5-methyl hexanamide | 10 grams | NCC(CC(=O)N(CC)CC)CC(C)C | C12H26N2O
reactant | sodium hydroxide | 3.0 ml, 3.0 gm | [OH-].[Na+]
reactant | Potassium hydroxide | 5.0 grams | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 15 ml | O | H2O
solvent | water | 5.0 ml | O | H2O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (S)-Pregabalin | CC(C)C[C@@H](CC(=O)O)CN | C8H17NO2
